US06548495B2
1-(3-Amino-4-nitro-phenyl)-4-(2-chloro-phenyl)-1H-pyrrole-3-carbonitrile
The title compound was prepared from 5-chloro-2nitroaniline, 4-(o-Chlorophenyl)-pyrrole-3-carbonitrile [CAS-No. 74738-15-1] and NaH in DMF at 150° C. for 3 h according to the general procedure E (method b). Obtained as a yellow-brown solid (218 mg).

reactant | 5-chloro-2nitroaniline | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 4-(o-Chlorophenyl)-pyrrole-3-carbonitrile | ClC1=C(C=CC=C1)C=1C(=CNC1)C#N | C11H7ClN2
reactant | NaH | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(3-Amino-4-nitro-phenyl)-4-(2-chloro-phenyl)-1H-pyrrole-3-carbonitrile | NC=1C=C(C=CC1[N+](=O)[O-])N1C=C(C(=C1)C1=C(C=CC=C1)Cl)C#N | C17H11ClN4O2
